US06444685B1
N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-{4-[2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
Sodium Triacetoxyborohydride (0.015 g, 0.72 mM) was added to a solution of 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one(0.08 g, 0.36 mM), N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide (0.19 g, 0.39 mM), and acetic acid (0.025 ml, 0.43 mM) in anhydrous dimethylforamide (5 ml). The reaction was stirred overnight. The reaction was quenched with 50% H2O/sat. NaHCO3aq. (20 ml). The solids were captured on a filter and washed with ethyl acetate, diethyl ether, and hexanes to afford 0.075 g of the desired product as a brown solid. 1H NMR (DMSO) δ 1.31 (m, 2H), 1.89 (m, 2H), 2.71 (m, 2H), 2.87 (m, 3H), 3.53(s, 3H), 3.67 (s, 3H), 3.87 (m, 4H), 3.98 (m, 1H), 4.67(s, 2H), 4.95(bs, 1H), 6.44 (s, 1H), 6.59(m, 2H), 6.79 (m, 2H), 7.05 (d, 2H, J=8.7 Hz), 7.25 (m, 6H), 7.41(d, 2H, J=8.4 Hz), 10.59 (bs, 1H), 10.72 (bs, 1H); MS (ES) m/z: 688.1 (MH+); HRMS for C36H41N5O7S: 688.2799 (MH+).

reactant | Sodium Triacetoxyborohydride | 0.72 mM, 0.015 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | 0.36 mM, 0.08 g | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | 0.39 mM, 0.19 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)C1=CC(=C(C=C1)OC)OC | C26H28N2O5S
reactant | acetic acid | 0.43 mM, 0.025 ml | C(C)(=O)O | C2H4O2
solvent | dimethylforamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-{4-[2-hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | 0.075 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NCC(COC1=CC=CC=2NC(NC21)=O)O)C2=CC(=C(C=C2)OC)OC | C36H41N5O7S
